US05681940
Preparation of 1'-amino-thymidine.
A suspension of 1'-amino-3',5'-bis(t-butyldimethylsilyl)-5-t-butyldimethylsiloxymethyl thymidine and tetrabutylammonium fluoride in THF stands at room temperature for one hour. The solvent is evaporated and the residue chromatographically separated on silica.

reactant | 1'-amino-3',5'-bis(t-butyldimethylsilyl)-5-t-butyldimethylsiloxymethyl thymidine | N[C@@]1(C[C@](O)([C@@H](C(O)[Si](C)(C)C(C)(C)C)O1)[Si](C)(C)C(C)(C)C)N1C(=O)NC(=O)C(C)(C1)CO[Si](C)(C)C(C)(C)C | C29H61N3O6Si3
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | C1CCOC1 | C4H8O
product | 1'-amino-thymidine | N[C@@]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H15N3O5
